US07649002B2
(4S)-4-Benzyl-3-[(2E)-3-(2,4-difluorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one
Oxalyl chloride (19 mL, 216 mmol) in dichloromethane (50 mL) was added dropwise to an ice-cooled stirred suspension of 2,4-difluorocinnamic acid (20.0 g, 108 mmol) in dichloromethane (400 mL) and N,N-dimethylformamide (0.4 mL) over 0.5 hours (waste gases from the reaction were scrubbed with a solution of concentrated sodium hydroxide). Once addition was complete, the reaction mixture was allowed to warm up to room temperature and was stirred at room temperature under nitrogen for 18 hours. The reaction mixture was then concentrated and azeotroped with dichloromethane (2×50 mL). The resulting acid chloride was redissolved in dichloromethane (50 mL) and this solution was added dropwise under nitrogen to a vigorously stirred suspension of lithium chloride (23.0 g, 540 mmol), triethylamine (76 mL, 540 mol) and (S)-(−)-4-benzyl-2-oxazolidinone (18.3 g, 103 mmol) in dichloromethane (400 mL) over 30 minutes. Once addition was complete, the reaction mixture was stirred at room temperature under nitrogen for 2.5 hours. The reaction mixture was diluted with dichloromethane (200 mL) and treated with a solution of 5% citric acid solution (500 mL). The organic layer was then separated and dried over magnesium sulfate. Filtration and evaporation of the dichloromethane gave the crude product as an orange oil. The crude material was redissolved in dichloromethane (100 mL) and the resulting solution was passed through a plug of silica, eluting with dichloromethane. The filtrate (1 L) was finally concentrated to afford 30.8 g of the product as a white solid.

reactant | Oxalyl chloride | 216 mmol, 19 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4-difluorocinnamic acid | 108 mmol, 20.0 g | FC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6F2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | lithium chloride | 540 mmol, 23.0 g | [Cl-].[Li+]
reactant | triethylamine | 540 mol, 76 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-(−)-4-benzyl-2-oxazolidinone | 103 mmol, 18.3 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | citric acid | 500 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.4 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (4S)-4-Benzyl-3-[(2E)-3-(2,4-difluorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one | 30.8 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=C(C=C(C=C1)F)F)=O | C19H15F2NO3
